US04455422
5.0 Grams of 6-{1-oxo-3-[4-(3-tolyl)-1-piperazinyl]-propyl}-3,4-dihydrocarbostyril was suspended in 250 ml of methanol, and 2.5 g of sodium borohydride was added gradually to this solution under ice-cooling condition and the mixture was stirred for 30 minutes. Then 10 ml of acetone was added to the mixture and the reaction mixture was concentrated under a reduced pressure to dryness. To the residue thus obtained were added 10N-NaOH and ether and stirred at a room temperature for 30 minutes. The crystals thus formed were collected by filtration and were suspended in 250 ml of dioxane then added 10 ml of concentrated hydrochloric acid. The mixture was refluxed for 15 minutes then concentrated under a reduced pressure to dryness. The residue thus obtained was separatedby a silica-gel chromatography and recrystallized from ethanol to obtain 6-{3-[4-(3-tolyl)-1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 2.9 g.

reactant | 6-{1-oxo-3-[4-(3-tolyl)-1-piperazinyl]-propyl}-3,4-dihydrocarbostyril | O=C(CCN1CCN(CC1)C=1C=C(C=CC1)C)C=1C=C2CCC(NC2=CC1)=O | C23H27N3O2
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 6-{3-[4-(3-tolyl)-1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril | C1(=CC(=CC=C1)N1CCN(CC1)CC=CC=1C=C2CCC(NC2=CC1)=O)C | C23H27N3O
